US06326375B1
(3) Preparation of 2-benzyl-1′-tert-butoxycarbonylspiro[1H-isoindole-1,4′-piperidine]-3(2H)-one
To a solution of 2-benzyl-1′-tert-butoxycarbonyl-1′,6′-dihydrospiro[1H-isoindole-1,4′(5′H)-pyridine]-3(2H)-one (1.0 g) in chloroform (20 mL), trifluoroacetic acid (20 mL) was added and the mixture was stirred for 1 hour. The reaction mixture was concentrated. The residue was dissolved in methanol and hydrogenated with 4M hydrogen chloride/ethyl acetate in the presence of 20% palladium carbon at 1 atm of hydrogen for 14 hours. The catalyst was removed by filtration and the filtrate was concentrated. To the residue, aqueous 1N sodium hydroxide (5 mL), di-tert-butyl dicarbonate (655 mg) and dioxane (10 mL) were added and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1 to 1/2) to give the subject compound (200 mg).

reactant | 2-benzyl-1′-tert-butoxycarbonyl-1′,6′-dihydrospiro[1H-isoindole-1,4′(5′H)-pyridine]-3(2H)-one | 1.0 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12C=CN(CC2)C(=O)OC(C)(C)C)=O | C24H26N2O3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-benzyl-1′-tert-butoxycarbonylspiro[1H-isoindole-1,4′-piperidine]-3(2H)-one | 200 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCN(CC2)C(=O)OC(C)(C)C)=O | C24H28N2O3
